US03998958
Conversion of the hydrochloride salt of 2-imino-1-methylpyrrolidine (6.73 g.; 0.05 mole) to the free base (4.9 g. assuming 100% conversion) is carried out in the usual manner. After drying over K2CO3, the benzene layer is stirred at room temperature and 7.45 g. (0.05 mole) of m-methoxyphenylisocyanate is added. The reaction mixture is stirred overnight and then taken to dryness in vacuo to give a white solid residue of 1-m-methoxyphenyl-3-(1-methyl-2-pyrrolidylidene)urea, m.p. = 123°-125° C. Recrystallizations from acetone affords the pure product, m.p. = 128°-129.5° C.

reactant | 2-imino-1-methylpyrrolidine | 0.05 mole, 6.73 g | N=C1N(CCC1)C | C5H10N2
reactant | m-methoxyphenylisocyanate | 0.05 mole | COC=1C=C(C=CC1)N=C=O | C8H7NO2
product | 1-m-methoxyphenyl-3-(1-methyl-2-pyrrolidylidene)urea | COC=1C=C(C=CC1)NC(=O)N=C1N(CCC1)C | C13H17N3O2
